US06759420B1
d) 2-(S)-(2-{[3-(4-Carbamimidoyl-phenyl)-2-(R,S)-cyclohexyl-propionyl]-cyclohexylmethyl-amino}-acetylamino)-5-guanidino-pentanoic acid amide acetic acid salt hydrochloric acid salt
To {[3-(4-carbamimidoyl-phenyl)-2-2-(R,S)-cyclohexyl-propionyl]-cyclohexylmethyl-amino}-acetic acid (50 mg, 0.12 mmol) and 2-(S)-amino-5-guanidino-pentanoic acid amide dihyrochloride (30 mg, 0.12 mmol) in dimethylformamide (5 ml) were added at −15° C. TOTU (44 mg, 0.13 mmol) and N-ethylmorpholine (40 μl, 0.32 mmol). The mixture was stirred for 1 hour and then allowed to warm to room temperature. After evaporated, the residue was treated with sodium bicarbonate solution and extracted with ethyl acetate. The aqueous layer was evaporated and purified by chromatography on Sephadex LH20 employing n-butanol (17): glacial acetic acid (1): water (2) as eluent. Pure fractions were combined. The solvent was evaporated, the residue was taken up in water, and the aqueous solution was lyophilized. Yield: 12 mg (15%), MS m/z: 292.4 (M+2H)2+.

reactant | {[3-(4-carbamimidoyl-phenyl)-2-2-(R,S)-cyclohexyl-propionyl]-cyclohexylmethyl-amino}-acetic acid | 0.12 mmol, 50 mg | C(N)(=N)C1=CC=C(C=C1)CC(C(=O)N(CC1CCCCC1)CC(=O)O)C1CCCCC1 | C25H37N3O3
reactant | 2-(S)-amino-5-guanidino-pentanoic acid amide dihyrochloride | 0.12 mmol, 30 mg | Cl.Cl.N[C@H](C(=O)N)CCCNC(=N)N
reactant | TOTU | 0.13 mmol, 44 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | N-ethylmorpholine | 0.32 mmol, 40 μl | C(C)N1CCOCC1 | C6H13NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(S)-(2-{[3-(4-Carbamimidoyl-phenyl)-2-(R,S)-cyclohexyl-propionyl]-cyclohexylmethyl-amino}-acetylamino)-5-guanidino-pentanoic acid amide acetic acid salt hydrochloric acid salt | Cl.C(C)(=O)O.C(N)(=N)C1=CC=C(C=C1)CC(C(=O)N(CC(=O)N[C@H](C(=O)N)CCCNC(=N)N)CC1CCCCC1)C1CCCCC1 | InChI=1S/C31H50N8O3.C2H4O2.ClH/c32-28(33)24-15-13-21(14-16-24)18-25(23-10-5-2-6-11-23)30(42)39(19-22-8-3-1-4-9-22)20-27(40)38-26(29(34)41)12-7-17-37-31(35)36;1-2(3)4;/h13-16,22-23,25-26H,1-12,17-20H2,(H3,32,33)(H2,34,41)(H,38,40)(H4,35,36,37);1H3,(H,3,4);1H/t25?,26-;;/m0../s1
